US08558028B2
Preparation of 1-Acetyl-N-(2-(1-(2-(4-chlorophenoxy)phenylamino)ethyl)phenyl)piperidine-4-carboxamide
2-(4-Chlorophenoxy)aniline (25 mg, 0.1138 mmol, 1.1 eq) and 1-acetyl-N-(2-acetylphenyl)piperidine-4-carboxamide (30 mg, 0.1040 mmol, 1 eq) were stirred in dry dichloromethane (DCM) at room temperature for 10 min. Tri-isopropoxytitanium chloride (55 μL, 0.2303 mmol, 2.2 eq) was added to the reaction mixture which was stirred at room temperature for an additional 10 min. Sodium triacetoxyborohydride (110 mg, 0.5190 mmol, 5 eq) and acetic acid (3 drops) were added to the reaction mixture which was stirred at room temperature for 16 h. The reaction mixture was then poured onto a solution of saturated aqueous sodium bicarbonate (50 mL) and extracted with DCM (30 mL). The organic layer was washed with brine (50 mL), dried over MgSO4, filtered and concentrated to give the crude as a yellow oil. Purification of the crude by flash chromatography (ISCO) eluting with a gradient [from 100% petroleum ether (PE) to 100% EtOAc] gave the title compound (5 mg, 10%) as a clear oil.

reactant | 2-(4-Chlorophenoxy)aniline | 0.1138 mmol, 25 mg, 1.1 eq | ClC1=CC=C(OC2=C(N)C=CC=C2)C=C1 | C12H10ClNO
reactant | 1-acetyl-N-(2-acetylphenyl)piperidine-4-carboxamide | 0.1040 mmol, 30 mg, 1 eq | C(C)(=O)N1CCC(CC1)C(=O)NC1=C(C=CC=C1)C(C)=O | C16H20N2O3
reactant | Sodium triacetoxyborohydride | 0.5190 mmol, 110 mg, 5 eq | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium bicarbonate | 50 mL | C([O-])(O)=O.[Na+]
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | acetic acid | 3 drops | C(C)(=O)O | C2H4O2
catalyst | Tri-isopropoxytitanium chloride | 0.2303 mmol, 55 μL, 2.2 eq | [Cl-].C(C)(C)O[Ti+](OC(C)C)OC(C)C
product | 1-Acetyl-N-(2-(1-(2-(4-chlorophenoxy)phenylamino)ethyl)phenyl)piperidine-4-carboxamide | 5 mg, 10% | C(C)(=O)N1CCC(CC1)C(=O)NC1=C(C=CC=C1)C(C)NC1=C(C=CC=C1)OC1=CC=C(C=C1)Cl | C28H30ClN3O3
